US07329662B2
5-(4-Methoxy-phenyl)-3-pyridin-4-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(4-methoxy-phenyl)-4,4,4-trifluoro-butane-1,3-dione (123 mg, 0.5 mmol), prepared from commercially available 4-methoxy-acetophenone according to general procedure A, and 3-amino-4-(4-pyridinyl)-pyrazole [CAS No. 216661-87-9; prepared from 4-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (110 mg, 59%). MS (ISP) 371.2 [(M+H)+]; mp 244° C.

reactant | 1-(4-methoxy-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 123 mg | COC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C11H9F3O3
reactant | 3-amino-4-(4-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C1=CC=NC=C1 | C8H8N4
product | 5-(4-Methoxy-phenyl)-3-pyridin-4-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 110 mg, 59% | COC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC=NC=C2 | C19H13F3N4O
